### PR TITLE
Lemmas on commutation with big sum and prod

### PR DESCRIPTION
**Pull request by hivert**
Two easy lemma stating that bigsum and bigprod commute if each of the terms commutes.

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- ~added corresponding documentation in the headers~

Second item above is irrelevant (only lemmas).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/ssralg.v [hunk 1]
```diff
@@ -1101,6 +1101,16 @@ Proof. exact/commrN/commr1. Qed.
 Lemma commrD x y z : comm x y -> comm x z -> comm x (y + z).
 Proof. by rewrite /comm mulrDl mulrDr => -> ->. Qed.
 
+Lemma commrB x y z : comm x y -> comm x z -> comm x (y - z).
+Proof. by move=> com_xy com_xz; apply commrD => //; apply commrN. Qed.
+
+Lemma commr_sum (I : Type) (s : seq I) (P : pred I) (F : I -> R) x :
+  (forall i, P i -> comm x (F i)) -> comm x (\sum_(i <- s | P i) F i).
+Proof.
+move=> H; rewrite /comm mulr_suml mulr_sumr.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssralg.v]: Please rename `H` with `comm_x_F`.

File: mathcomp/algebra/ssralg.v [hunk 2]
```diff
@@ -1110,6 +1120,15 @@ Qed.
 Lemma commrM x y z : comm x y -> comm x z -> comm x (y * z).
 Proof. by move=> com_xy; rewrite /comm mulrA com_xy -!mulrA => ->. Qed.
 
+Lemma commr_prod (I : Type) (s : seq I) (P : pred I) (F : I -> R) x :
+  (forall i, P i -> comm x (F i)) -> comm x (\prod_(i <- s | P i) F i).
+Proof.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssralg.v]: Same

File: mathcomp/algebra/ssralg.v [hunk 3]
```diff
@@ -1110,6 +1120,15 @@ Qed.
...
+move=> H; rewrite /comm.
+elim: s => [|s0 s IHs]; first by rewrite !big_nil commr1.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssralg.v]: I think one of ` rewrite big_morph', or `eilm/big_rec : _` or `elim/big_ind : _` would do the job here.

**Comment by hivert** [comment]
@CohenCyril Done your changes.

File: mathcomp/algebra/ssralg.v [hunk 4]
```diff
@@ -1101,6 +1101,16 @@ Proof. exact/commrN/commr1. Qed.
...
 Proof. by rewrite /comm mulrDl mulrDr => -> ->. Qed.
 
+Lemma commrB x y z : comm x y -> comm x z -> comm x (y - z).
+Proof. by move=> com_xy com_xz; apply commrD => //; apply commrN. Qed.
+
+Lemma commr_sum (I : Type) (s : seq I) (P : pred I) (F : I -> R) x :
+  (forall i, P i -> comm x (F i)) -> comm x (\sum_(i <- s | P i) F i).
+Proof.
+move=> comm_x_F; rewrite /comm mulr_suml mulr_sumr.
+by apply eq_bigr => i /comm_x_F.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssralg.v]: Oh I forgot this one: please use `apply:` (with a colon).

Comment (hivert) [reply mathcomp/algebra/ssralg.v]: Done.

**Comment by amahboubi** [comment]
@CohenCyril is this ready to merge?

**Comment by pi8027** [comment]
Shouldn't those lemmas be exported from the `GRing.Theory` module?

**Comment by CohenCyril** [comment]
> Shouldn't those lemmas be exported from the `GRing.Theory` module?

well spotted @pi8027
